Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Reglan / Compazine / Tigan
 
Attending: ___
 
Chief Complaint:
rib fracture s/p fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: Ms. ___ is a ___ female who is transferred to
___ for trauma evaluation after a mechanical fall 
approximately
12 hours prior to time of this consultation. She reports having
tripped on a rug or rough surface on the ground, and having
fallen onto a TV stand. Her only complaint has been pain at her
right chest, with no difficulty breathing, and no other sites of
discomfort. Due to finding of multiple rib fractures on initial
evaluation at OSH, she was transferred to ___ for further 
care.
Presently, she appears comfortable, and her only complaint is
controlled but persistent right chest wall pain. She reports
having ambulated to the bathroom multiple times here in the ED. 
She has no SOB, no chest pain, no headache, no nausea/vomiting. 
 
Past Medical History:
Past Medical History: Anxiety, CKD (Stage 3, GFR ___, ADD,
bipolar disorder, hearing loss, low back pain, anemia

Past Surgical History: Back surgery
 
Social History:
___
Family History:
reviewed and non-contributory
 
Physical Exam:
Admission Physical Exam:

Vitals: 98.1  81  139/65  16  100%RA  
GEN: A&O, NAD, interactive and cooperative
HEENT: scalp atraumatic, no scleral icterus, PERRLA, EOMI, nares
clear, ear canals clear bilaterally, oropharynx clear, subtle 
and
minimal bruising of the left infraorbital region with no 
palpable
deformities or crepitus
Neck: Trachea midline, no crepitus
Chest: clavicles non-tender and without deformity bilaterally,
left chest wall non-tender, right chest wall tender to palpation
towards flank/posteriorly with no associated crepitus 
CV: RRR
Pulm: clear breath sounds bilaterally with no rhonchi/crackles
ABD: Soft, nondistended, nontender, no visible masses or bruises
___: No ___ edema, ___ warm and well perfused bilaterally with
palpable ___ pulses, no visible deformities or
tenderness to palpation
UE: No UE edema, UE warm and well perfused bilaterally with
palpable radial pulses, no visible deformities or tenderness to
palpation
Back: No tenderness to palpation, no stepoffs/deformities 

 

Discharge Physical Exam:
GEN: A&O, NAD, interactive and cooperative
HEENT: scalp atraumatic, no scleral icterus, PERRLA, EOMI, nares
clear, ear canals clear bilaterally, oropharynx clear, subtle 
and
minimal bruising of the left infraorbital region with no 
palpable
deformities or crepitus
Neck: Trachea midline, no crepitus
Chest: clavicles non-tender and without deformity bilaterally,
left chest wall non-tender, right chest wall tender to palpation
towards flank/posteriorly with no associated crepitus 
CV: RRR
Pulm: clear breath sounds bilaterally with no rhonchi/crackles
ABD: Soft, nondistended, nontender, no visible masses or bruises
___: No ___ edema, ___ warm and well perfused bilaterally with
palpable ___ pulses, no visible deformities or
tenderness to palpation
UE: No UE edema, UE warm and well perfused bilaterally with
palpable radial pulses, no visible deformities or tenderness to
palpation
Back: No tenderness to palpation, no stepoffs/deformities 
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 04:40PM BLOOD WBC-11.7* RBC-4.26 Hgb-13.1 Hct-38.1 
MCV-89 MCH-30.8 MCHC-34.4 RDW-12.6 RDWSD-41.5 Plt ___

___ 04:40PM BLOOD Neuts-76.6* Lymphs-16.6* Monos-5.2 
Eos-0.7* Baso-0.6 Im ___ AbsNeut-8.97* AbsLymp-1.94 
AbsMono-0.61 AbsEos-0.08 AbsBaso-0.07

___ 04:40PM BLOOD ___ PTT-29.2 ___

___ 04:40PM BLOOD Glucose-100 UreaN-19 Creat-1.2* Na-138 
K-3.8 Cl-105 HCO3-19* AnGap-18
___ 04:40PM BLOOD Calcium-9.0 Phos-2.7 Mg-2.1

========
IMAGING
========

___ CXR:
IMPRESSION:  
Small right apical pneumothorax without evidence of tension.  No 
focal 
consolidation or effusion. 

___ CT Head w/o contrast:
IMPRESSION:  
Small focus of air at the floor of the left middle cranial fossa 
further 
characterized on sinus CT. 
Otherwise unremarkable head CT without acute intracranial 
process.  No 
hemorrhage. 

___ CT C-Spine:
IMPRESSION:  
Degenerative changes without fracture or malalignment. 
Small right apical pneumothorax. 

___ CT Sinus/Maxillary:\
IMPRESSION:  
Mild soft tissue swelling involving the left cheek without 
facial fracture. 
Small focus of air at the floor of the left middle cranial fossa 
suspicious for pneumocephalus.  No visualized fracture. 

___ CXR:
IMPRESSION:  
Unchanged small right apical pneumothorax.  No displaced rib 
fractures 
identified. 

==============
DISCHARGE LABS
==============

___ 07:20AM BLOOD WBC-6.3 RBC-4.16 Hgb-12.3 Hct-38.0 MCV-91 
MCH-29.6 MCHC-32.4 RDW-12.9 RDWSD-42.9 Plt ___

___ 07:20AM BLOOD Glucose-94 UreaN-23* Creat-1.2* Na-139 
K-4.1 Cl-106 HCO3-18* AnGap-19
___ 07:20AM BLOOD Calcium-8.5 Phos-3.6 Mg-2.4
 
Brief Hospital Course:
Mrs. ___ was admitted to the Acute Care Surgical Service 
under the care of Dr. ___ for pain control and 
close respiratory monitoring in the setting of her small right 
apical pneumothorax, which was discovered on CXR upon initial 
evaluation in the ___ Emergency Department. Her pain was well 
controlled with PO pain medications and she did not require any 
supplemental oxygen throughout the entirety of her 
hospitalization. On the morning of HD1, she underwent repeat CXR 
which demonstrated stability of her small right apical 
pneumothorax. A tertiary survey was later performed and was 
negative for any additional findings related to her traumatic 
fall. 

Of note, she was found to have a very small focus of air within 
the left middle cranial fossa on her CT head, prompting a CT 
sinus/maxilla that confirmed the presence of this air focus. 
However, given that she had not sustained any head trauma by 
report or by physical exam and did not have any evidence of 
neurological deficits, the imaging was re-reviewed and the 
finding felt to be incidental clinically insignificant in the 
current setting.

On the evening of HD1, the patient was tolerating a regular 
diet, voiding and ambulating without difficulty, maintaining 
appropriate oxygenation on room air without any evidence of 
respiratory distress, her pain was well-controlled with PO pain 
medications, and she remained afebrile and hemodynamically 
stable. She was thus deemed ready for discharge home with 
instructions to follow up with her PCP within two weeks of 
discharge to ensure appropriate recovery. She was also 
instructed to contact the ___ for any questions or 
concerns that should arise following discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 300 mg PO DAILY 
2. LamoTRIgine 150 mg PO BID 
3. ARIPiprazole 5 mg PO DAILY 
4. MethylPHENIDATE (Ritalin) 10 mg PO DAILY 
5. ClonazePAM 0.5 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID 
Please take while using narcotics to prevent constipation. 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice daily Disp 
#*30 Tablet Refills:*0 
3.  Senna 8.6 mg PO BID:PRN constipation 
Please take while using narcotics to prevent constipation. 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice daily Disp 
#*30 Tablet Refills:*0 
4.  TraMADol ___ mg PO Q4H:PRN Pain - Moderate 
Do not drive or drive while taking narcotics. Please discard 
extra. 
RX *tramadol 50 mg ___ tablet(s) by mouth every 4 to 6 hours 
Disp #*40 Tablet Refills:*0 
5.  ARIPiprazole 5 mg PO DAILY  
6.  BuPROPion 300 mg PO DAILY  
7.  ClonazePAM 0.5 mg PO BID  
8.  LamoTRIgine 150 mg PO BID  
9.  MethylPHENIDATE (Ritalin) 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
right ___ rib fracture
small stable right apical pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ were admitted to the Acute Care Trauma Surgery Service on 
___ after sustaining right sided rib fractures and a very 
small pneumothorax. ___ were admitted to the hospital for pain 
control and respiratory monitoring. ___ are doing well, 
tolerating a regular diet, pain is controlled with oral 
medications and ___ are ready to be discharged to home to 
continue your recovery.

Please note the following discharge instructions:

* Your injury caused right sided rib fractures which can cause 
severe pain and subsequently cause ___ to take shallow breaths 
because of the pain.

* ___ should take your pain medication as directed to stay ahead 
of the pain otherwise ___ won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.

* Pneumonia is a complication of rib fractures. In order to 
decrease your risk ___ must use your incentive spirometer 4 
times every hour while awake. This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.

* ___ will be more comfortable if ___ use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.

* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.

* Narcotic pain medication can cause constipation therefore ___ 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.

* Do NOT smoke

* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.

* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___